US06599936B1
Step 1: Synthesis of Salicyloyl Chloride
Into a clean, dry three necked round bottomed flask were charged one equivalent of salicylic acid, 50 mls is of anhydrous toluene and a few drops of pyridine catalyst. The flask was equipped with a stir bar, thermometer and an addition funnel. Into the addition funnel was charged one equivalent of thionyl chloride in a few mls of toluene. The contents of the reaction flask were heated to 40° C. under a nitrogen blanket before the thionyl chloride solution was added slowly. Once the addition was complete, the reaction proceeded at 40-45° C. for several hours or until the reaction mixture was homogeneous. Upon completion of the reaction, any unreacted thionyl chloride was removed under vacuum.

reactant | salicylic acid | one equivalent | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | thionyl chloride | one equivalent | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | a few drops | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Salicyloyl Chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
